US08183246B2
3-[2-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}-1-methylethoxy]propionic acid
Put 100 mg (0.27 mmol) (+)-1-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}-propan-2-ol with 170 mg (1.33 mmol) acrylic acid tert.-butyl ester and 18.1 mg (0.053 mmol) tetra-n-butylammonium hydrogensulphate in 2 ml dichloromethane and cool to 0° C. Then add 250 μl 50% sodium hydroxide solution and stir the mixture vigorously at 0° C. for 1 h. Leave to return to RT and continue stirring overnight at RT. Then dilute with dichloromethane and water. Acidify with 10% citric acid solution and separate the phases. Re-extract the aqueous phase once with dichloromethane. Combine the organic phases, wash once with satd. sodium chloride solution, dry over magnesium sulphate and concentrate by evaporation. Dissolve the residue thus obtained in 2.5 ml dichloromethane, add 600 μl trifluoroacetic acid and stir for a further 2 h at RT. Then concentrate by evaporation and purify the residue by chromatographing twice on a silica-gel thick-layer plate (solvent: dichloromethane/methanol 9:1). Extract the product zone with dichloromethane/methanol 9:1. After concentrating by evaporation and drying, 38 mg (42.8% of theor.) of the target compound is obtained.

reactant | (+)-1-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}-propan-2-ol | 0.27 mmol, 100 mg | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)NCC(C)O)C2=CC=CC=C2 | C22H21N3O3
reactant | acrylic acid tert.-butyl ester | 1.33 mmol, 170 mg | C(C)(C)(C)OC(C=C)=O | C7H12O2
reactant | sodium hydroxide | 250 μl | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | trifluoroacetic acid | 600 μl | FC(C(=O)O)(F)F | C2HF3O2
catalyst | tetra-n-butylammonium hydrogensulphate | 0.053 mmol, 18.1 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-[2-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}-1-methylethoxy]propionic acid | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)NCC(OCCC(=O)O)C)C2=CC=CC=C2 | C25H25N3O5
